US06136831
The product obtained in Example 7.1), 1-(benzothiazol-2-yl)-4,4,4-trifluorobutane-1,3-dione, was treated with 4-sulfamoylphenylhydrazine hydrochloride in the same manner as in Example 9 to give 4-[5-(benzothiazol-2-yl)-3-trifluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide (yield, 44%).

reactant | 1-(benzothiazol-2-yl)-4,4,4-trifluorobutane-1,3-dione | S1C(=NC2=C1C=CC=C2)C(CC(C(F)(F)F)=O)=O | C11H6F3NO2S
reactant | 4-sulfamoylphenylhydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 4-[5-(benzothiazol-2-yl)-3-trifluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide | 44% | S1C(=NC2=C1C=CC=C2)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)N)C(F)(F)F | C17H11F3N4O2S2
